US05430042
Preparation of 4-chloro-3-(3-methoxy-1-propoxy)-2-methylpyridine
A solution of 3-(3-methoxy-1-propoxy)-2-methyl-4-pyridone (0.32 g, 1.6 mmol) in 50 ml POCl3 was refluxed for 14 h. The POCl3 was evaporated off and the residue was partitioned between methylene chloride and water. The aqueous layer was separated, treated with K2CO3 until pH=10 and extracted with methylene chloride. The organic layer was dried over Na2SO4 and evaporated. The residue was purified by chromatography on silica gel with methanol/methylene chloride (3:97) as eluent. Evaporation off the solvent afforded 0.12 g (34%) product as a red oil.

reactant | 3-(3-methoxy-1-propoxy)-2-methyl-4-pyridone | 1.6 mmol, 0.32 g | COCCCOC1C(=NC=CC1=O)C | C10H15NO3
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-3-(3-methoxy-1-propoxy)-2-methylpyridine | 0.12 g, 34% | ClC1=C(C(=NC=C1)C)OCCCOC | C10H14ClNO2
